US05442064
4-(4-Cyanophenyl)-piperidine-hydrochloride
A solution of 2.4 g of 1-tert.butyloxycarbonyl-4-(4-cyanophenyl)-piperidine in 20 ml of dioxane and 20 ml of ethereal hydrochloric acid is stirred for 16 hours at ambient temperature. The crystalline precipitate is suction filtered, washed with ether and dried. Yield: 1.85 g (99% of theory), Melting point: 284°-288° C. Rf value: 0.79 (silica gel; methylene chloride/methanol/conc. ammonia=4:1:0.25)

reactant | 1-tert.butyloxycarbonyl-4-(4-cyanophenyl)-piperidine | 2.4 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)C#N | C17H22N2O2
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 4-(4-Cyanophenyl)-piperidine-hydrochloride | Cl.C(#N)C1=CC=C(C=C1)C1CCNCC1 | InChI=1S/C12H14N2.ClH/c13-9-10-1-3-11(4-2-10)12-5-7-14-8-6-12;/h1-4,12,14H,5-8H2;1H
